US07902356B2
3-{4-[2-(4-Chloro-phenyl)-4-oxo-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenyl}-propionaldehyde
Dissolve 2-(4-chloro-phenyl)-5-[4-(3,3-diethoxy-propyl)-3-methoxy-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one (180 mg, 0.36 mmol) in THF (2.0 mL) and water (1.0 mL) then add glacial acetic acid (0.6 mL). Stir the solution at 45° C. overnight. Dilute the solution with EtOAc (50 mL), wash with saturated NaHCO3 (20 mL), then dry, filter and concentrate the solution. Purify the crude material by flash chromatography, using a linear gradient of 100% hexanes to 80% EtOAc/hexanes, to give the title compound (94 mg, 61%). MS (ES+) 425.0 (M+1)+. 1H NMR (400 MHz, CDCl3): δ 9.83 (s, 1H), 8.03 (d, 2H, J=8.3 Hz), 7.49 (d, 2H, J=8.8 Hz), 7.41 (d, 1H, J=7.5 Hz), 7.26 (m, 1H), 6.99-6.89 (m, 3H), 3.84 (s, 3H), 2.99 (t, 2H, J=7.3 Hz), 2.77 (t, 2H, J=7.3 Hz).

reactant | 2-(4-chloro-phenyl)-5-[4-(3,3-diethoxy-propyl)-3-methoxy-phenyl]-5H-thiazolo[5,4-c]pyridin-4-one | 0.36 mmol, 180 mg | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)CCC(OCC)OCC)OC)=O | C26H27ClN2O4S
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-{4-[2-(4-Chloro-phenyl)-4-oxo-4H-thiazolo[5,4-c]pyridin-5-yl]-2-methoxy-phenyl}-propionaldehyde | 94 mg, 61% | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)CCC=O)OC)=O | C22H17ClN2O3S
